US05173484
b) 4-Hydroxy-4-methylaminomethylpiperidine dihydrochloride
3 g (13.9 mmol) of ethyl 4-hydroxy-4-methylaminomethylpiperidine-1-carboxylate are heated overnight under reflux with 30 ml of concentrated hydrochloric acid. The product is concentrated, and the crystals are stirred with acetone, filtered off with suction and dried in a vacuum desiccator over P4O10.

reactant | ethyl 4-hydroxy-4-methylaminomethylpiperidine-1-carboxylate | 13.9 mmol, 3 g | OC1(CCN(CC1)C(=O)OCC)CNC | C10H20N2O3
reactant | hydrochloric acid | 30 ml | Cl | ClH
product | 4-Hydroxy-4-methylaminomethylpiperidine dihydrochloride | Cl.Cl.OC1(CCNCC1)CNC | InChI=1S/C7H16N2O.2ClH/c1-8-6-7(10)2-4-9-5-3-7;;/h8-10H,2-6H2,1H3;2*1H
